US07776857B2
Step 1: 4-phenylnaphthalen-1-amine
A pressure bottle was charged with 4-bromonaphthalen-1-amine (500 mg, 2251 μmol), phenylboronic acid (357 mg, 2927 μmol), PdCl2(dppf)-CH2Cl2 adduct (91.9 mg, 113 μmol), 2.0 M sodium carbonate (2251 μl, 4503 μmol) and 9.0 mL of dioxane. The bottle was sealed and the mixture was heated at 85° C. for 2 h. LCMS showed desired product as the major component. The mixture was diluted with DCM and washed with water. The organic portion was dried, filtered and concentrated. The crude material was purified by silica gel chromatography, DCM to 2% MeOH/DCM to provide 4-phenylnaphthalen-1-amine. MS: [M+H]=220.

reactant | 4-bromonaphthalen-1-amine | 2251 μmol, 500 mg | BrC1=CC=C(C2=CC=CC=C12)N | C10H8BrN
reactant | phenylboronic acid | 2927 μmol, 357 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 4503 μmol, 2.0 M, 2251 μl | C([O-])([O-])=O.[Na+].[Na+]
catalyst | PdCl2(dppf) CH2Cl2 | 113 μmol, 91.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | dioxane | 9.0 mL | O1CCOCC1 | C4H8O2
product | 4-phenylnaphthalen-1-amine | C1(=CC=CC=C1)C1=CC=C(C2=CC=CC=C12)N | C16H13N
